US04264510
In a manner analogous to that described in Example 1, a mixture of 1,2,3,4-tetrahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene and methyl acrylate was reacted to give 1,2,3,4,5,12-hexahydro-7,10-dimethoxy-5,12-epoxynaphthacene-2-carboxylic acid methyl ester which was converted via 5,12-diacetoxy-1,2,3,4-tetrahydro-7,10-dimethoxy-2-naphthacenecarboxylic acid methyl ester into 5,12-diacetoxy-1,2,3,4,6,11-hexahydro-7,10-dimethoxy-6,11-dioxo-2-naphthacenecarboxylic acid methyl ester.

reactant | 1,2,3,4-tetrahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene | COC1=C2C=C3C4C(C(C(C3=CC2=C(C=C1)OC)O4)=C)=C | C18H16O3
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | 1,2,3,4,5,12-hexahydro-7,10-dimethoxy-5,12-epoxynaphthacene-2-carboxylic acid methyl ester | COC(=O)C1CC=2C3C4=CC5=C(C=CC(=C5C=C4C(C2CC1)O3)OC)OC | C22H22O5
